.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.subckt project1_nand vdd A vss B out A_b
X0 out A_b a_1488_n84# vss sky130_fd_pr__nfet_01v8 ad=0.0798 pd=0.8 as=0.1428 ps=1.31 w=0.42 l=0.15
**devattr s=6384,320 d=3192,160
X1 out A_b vdd vdd sky130_fd_pr__pfet_01v8 ad=0.4674 pd=3.22 as=0.4674 ps=3.22 w=1.23 l=0.15
**devattr s=18696,644 d=18696,644
X2 a_1488_n84# B vss vss sky130_fd_pr__nfet_01v8 ad=0.1428 pd=1.31 as=0.1064 ps=1.06667 w=0.42 l=0.15
**devattr s=3192,160 d=6384,320
X3 A_b A vss vss sky130_fd_pr__nfet_01v8 ad=0.1596 pd=1.6 as=0.1064 ps=1.06667 w=0.42 l=0.15
**devattr s=6384,320 d=6384,320
X4 A_b A vdd vdd sky130_fd_pr__pfet_01v8 ad=0.4674 pd=3.22 as=0.4674 ps=3.22 w=1.23 l=0.15
**devattr s=18696,644 d=18696,644
X5 vss B a_1488_n84# vss sky130_fd_pr__nfet_01v8 ad=0.1064 pd=1.06667 as=0.1428 ps=1.31 w=0.42 l=0.15
**devattr s=5040,204 d=3192,160
X6 vdd B out vdd sky130_fd_pr__pfet_01v8 ad=0.4674 pd=3.22 as=0.4674 ps=3.22 w=1.23 l=0.15
**devattr s=18696,644 d=18696,644
X7 a_1488_n84# A_b out vss sky130_fd_pr__nfet_01v8 ad=0.1428 pd=1.31 as=0.0798 ps=0.8 w=0.42 l=0.15
**devattr s=3192,160 d=5040,204
C0 out B 0.03874f
C1 a_1488_n84# vdd 0.06288f
C2 vdd A 0.08741f
C3 out vdd 0.19544f
C4 a_1488_n84# A 0.00138f
C5 out a_1488_n84# 0.08702f
C6 out A 0
C7 A_b B 0.0249f
C8 vdd A_b 0.18193f
C9 a_1488_n84# A_b 0.08276f
C10 vdd B 0.09653f
C11 A_b A 0.06117f
C12 out A_b 0.09783f
C13 a_1488_n84# B 0.05385f
C14 out vss 0.24557f
C15 vdd vss 1.27392f
C16 a_1488_n84# vss 0.81643f
.ends


Vdd vdd 0 1.8
VA A 0 0
VB B 0 0

Xnand vdd A 0 B out A_b project1_nand

.control

op

let Idd00 = -i(Vdd)
let Pstatic00 = 1.8*Idd00

echo "========================================"
echo "STATIC POWER: A=0, B=0"
echo "========================================"
print Idd00
print Pstatic00


alter VA 1.8
alter VB 0
op

let Idd10 = -i(Vdd)
let Pstatic10 = 1.8*Idd10

echo "========================================"
echo "STATIC POWER: A=1, B=0"
echo "========================================"
print Idd10
print Pstatic10


alter VA 0
alter VB 1.8
op

let Idd01 = -i(Vdd)
let Pstatic01 = 1.8*Idd01

echo "========================================"
echo "STATIC POWER: A=0, B=1"
echo "========================================"
print Idd01
print Pstatic01


alter VA 1.8
alter VB 1.8
op

let Idd11 = -i(Vdd)
let Pstatic11 = 1.8*Idd11

echo "========================================"
echo "STATIC POWER: A=1, B=1"
echo "========================================"
print Idd11
print Pstatic11


echo "========================================"
echo "ALL 4 CASES COMPLETE"
echo "========================================"

.endc
.end